US04298529
Phosphorus oxychloride (0.54 ml.), N,N-dimethylformamide (438 mg.), 2-methoxyimino-3,3-ethylenedioxy-4-bromobutyric acid (syn isomer, 1.6 g.), 7-amino-3-cephem-4-carboxylic acid (1 g.), trimethylsilylacetamide (3.3 g.) and dry ethyl acetate (21 ml.) were treated in a similar manner to that of Example 11 (1) to give 7-(2-methoxyimino-3,3-ethylenedioxy-4-bromobutyramido)-3-cephem-4-carboxylic acid (syn isomer, 2.25 g.)

reactant | Phosphorus oxychloride | 0.54 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | 2-methoxyimino-3,3-ethylenedioxy-4-bromobutyric acid | 1.6 g | CON=C(C(=O)O)C1(CBr)OCCO1 | C7H10BrNO5
reactant | 7-amino-3-cephem-4-carboxylic acid | 1 g | NC1[C@@H]2N(C(=CCS2)C(=O)O)C1=O | C7H8N2O3S
reactant | trimethylsilylacetamide | 3.3 g | C[Si](C)(C)CC(=O)N | C5H13NOSi
solvent | ethyl acetate | 21 ml | C(C)(=O)OCC | C4H8O2
solvent | N,N-dimethylformamide | 438 mg | CN(C=O)C | C3H7NO
product | 7-(2-methoxyimino-3,3-ethylenedioxy-4-bromobutyramido)-3-cephem-4-carboxylic acid | 2.25 g | CON=C(C(=O)NC1[C@@H]2N(C(=CCS2)C(=O)O)C1=O)C1(CBr)OCCO1 | C14H16BrN3O7S
